US05409928
Preparation of 3-(4-benzylphenyl)-6-ethoxycarbonyl-7-hydroxypyrazolo[1,5-a]pyrimidine
A mixture of 3-amino-4-(4-benzylphenyl)pyrazole (0.75 g), ethoxymethylenemalonic diethylester (1.30 g) and ethanol (30 ml) was stirred under heating reflux for 48 hours. After cooling, sodium ethoxide -ethanol was added, and was stirred at room temperature for 12 hours. Then, at 0° C., 10% hydrochloric acid was added to adjust to acid, and water (50 ml) was added and stirred for 30 minutes. The precipitate was separated by filtration, washed with water, and dried to give the title compound (1.12 g).

reactant | 3-amino-4-(4-benzylphenyl)pyrazole | 0.75 g | NC1=NNC=C1C1=CC=C(C=C1)CC1=CC=CC=C1 | C16H15N3
reactant | ethoxymethylenemalonic diethylester | 1.30 g | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | sodium ethoxide ethanol | [O-]CC.[Na+].C(C)O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-(4-benzylphenyl)-6-ethoxycarbonyl-7-hydroxypyrazolo[1,5-a]pyrimidine | 1.12 g | C(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=CC(=C2O)C(=O)OCC | C22H19N3O3
